US09193693B2
Step 2. tert-Butyl 4-(3-(trifluoromethyl)pyridin-2-yl)piperidine-1-carboxylate
Into a 50-mL round-bottom flask was purged and maintained with an inert atmosphere of hydrogen, was added a solution of tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate (449.3 mg, 1.27 mmol, 1.00 equiv, 93%) in methanol (20 mL) and Palladium carbon anhydrous (134.8 mg). The resulting solution was stirred overnight at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. This resulted in 379.8 mg (87%) of tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)piperidine-1-carboxylate as colorless oil.

reactant | tert-butyl 4-(3-(trifluoromethyl)pyridin-2-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.27 mmol, 449.3 mg, 1.00 equiv | FC(C=1C(=NC=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H19F3N2O2
solvent | methanol | 20 mL | CO | CH4O
solvent | Palladium carbon | 134.8 mg | [C].[Pd]
product | tert-Butyl 4-(3-(trifluoromethyl)pyridin-2-yl)piperidine-1-carboxylate | FC(C=1C(=NC=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C16H21F3N2O2
